US08975254B2
a) ethyl 5-ethoxy-4-methyl-1H-pyrazole-3-carboxylate
A solution of diethyl oxalpropionate (9.15 ml, 49.5 mmol) and hydrazine dihydrochloride (6.23 g, 59.3 mmol) in ethanol (50 ml) was refluxed for 1 h. The mixture was then cooled and water (150 ml) was added. The solution was neutralised with solid NaHCO3 and extracted four times with EtOAc. The organic phase was washed with brine and water, dried with Na2SO4 and evaporated to dryness affording 7.81 g (80%) of the title compound. LC-MS: [M+1]=199.22.

reactant | diethyl oxalpropionate | 49.5 mmol, 9.15 ml | CCOC(=O)CCC(=O)C(=O)OCC | C9H14O5
reactant | hydrazine dihydrochloride | 59.3 mmol, 6.23 g | Cl.Cl.NN
reactant | water | 150 ml | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-ethoxy-4-methyl-1H-pyrazole-3-carboxylate | 7.81 g, 80% | C(C)OC1=C(C(=NN1)C(=O)OCC)C | C9H14N2O3
